US08980911B2
(4-Bromo-2,6-dichlorophenyl)(1H-pyrrolo[2,3-c]pyridin-3-yl)methanone was prepared from 1H-Pyrrolo[2,3-c]pyridine and 4-bromo-2,6-dichloro benzoyl chloride (Compound No. 10).

reactant | 1H-Pyrrolo[2,3-c]pyridine | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | 4-bromo-2,6-dichloro benzoyl chloride | BrC1=CC(=C(C(=O)Cl)C(=C1)Cl)Cl | C7H2BrCl3O
product | (4-Bromo-2,6-dichlorophenyl)(1H-pyrrolo[2,3-c]pyridin-3-yl)methanone | BrC1=CC(=C(C(=C1)Cl)C(=O)C1=CNC2=CN=CC=C21)Cl | C14H7BrCl2N2O
